US07667041B2
To a solution of (E)-5-chloro-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]valeric acid ethyl ester (50 mg) obtained in Example 417 in acetonitrile (3 mL) and water (0.3 mL), 7-methoxy-1,2,3, 4-tetrahydronaphthalen-1-ylamine (CAS#50399-51-4) (25 mg), potassium carbonate (57 mg) and sodium iodide (21 mg) were added at room temperature, and heat-refluxing of the reaction solution was carried out for two days. The reaction solution was allowed to be cooled to room temperature, water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. The organic layer was washed with a saturated sodium chloride solution, and the organic layer was concentrated under reduced pressure after dried over anhydrous magnesium sulfate. The residue was purified by silica gel chromatography (Carrier: Chromatorex™ NH, an elution solvent:heptane-ethyl acetate system), and (E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-5-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-ylamino)valeric acid ethyl ester (24 mg) was obtained. 2N sodium hydroxide solution (0.3 mL) was added to an ethanol (1 mL) solution of obtained (E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-5-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-ylamino)valeric acid ethyl ester (24 mg) at room temperature, and the reaction solution was agitated at room temperature for 16 hours. 2N hydrochloric acid (0.3 mL) was added to the reaction solution under ice-cooling, and the reaction solution was concentrated under reduced pressure. EDC (25 mg) and HOBT (18 mg) were added to a DMF (2 mL) suspension of the obtained residue, and the reaction solution was agitated at room temperature for 24 hours. Water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. The organic layer was washed with a saturated sodium chloride solution, and the organic layer was concentrated under reduced pressure after dried over anhydrous magnesium sulfate. The residue was purified by silica gel chromatography (Carrier: Chromatorex™ NH, an elution solvent:heptane-ethyl acetate system), and (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-1-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-2-one racemate (19 mg) was obtained. This compound (19 mg) was separated in CHIRALCEL™ AD-H available from Daicel Chemical Industries, Ltd. (2 cm×25 cm: mobile phase; ethanol), and the title optically-active substance with a retention time of 17 minutes (7 mg;>99% ee) and the title optically-active substance with a retention time of 25 minutes (6 mg;>99% ee) were obtained. The physical properties of the title optically-active substance with a retention time of 17 minutes (Example 423) are as follows.

reactant | sodium hydroxide | 2N, 0.3 mL | [OH-].[Na+]
reactant | (E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-5-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-ylamino)valeric acid ethyl ester | 24 mg | C(C)OC(/C(/CCCNC1CCCC2=CC=C(C=C12)OC)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C30H37N3O4
reactant | hydrochloric acid | 2N, 0.3 mL | Cl | ClH
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]-1-(7-methoxy-1,2,3,4-tetrahydronaphthalen-1-yl)piperidin-2-one | COC=1C=C(\C=C/2\C(N(CCC2)C2CCCC3=CC=C(C=C23)OC)=O)C=CC1N1C=NC(=C1)C | C28H31N3O3
